US07078428B2
A mixture of 5.0 g of 4-chloro-N-(3,3,3-trifluoropropyl)phthalamic acid and 30 mg of para-toluenesulfonic acid in 100 cm3 of toluene is refluxed with stirring for 7 hours. The reaction mixture is then concentrated to dryness under reduced pressure. 4.2 g of 4-chloro-N-(3,3,3-trifluoropropyl)phthalimide are thus obtained, Rf=0.5 (thin layer chromatography on silica gel, eluent: diisopropyl ether. Mass spectrum: DCI: m/e 278.

reactant | 4-chloro-N-(3,3,3-trifluoropropyl)phthalamic acid | 5.0 g | ClC=1C=C(C(C(=O)O)=CC1)C(=O)NCCC(F)(F)F | C11H9ClF3NO3
reactant | para-toluenesulfonic acid | 30 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 cm3 | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-N-(3,3,3-trifluoropropyl)phthalimide | 4.2 g | ClC=1C=C2C(C(=O)N(C2=O)CCC(F)(F)F)=CC1 | C11H7ClF3NO2
